US07220856B2
Preparation of 7-Chloro-4-[4-(1-indanylaminocarbonyl)piperazin-1-yl]quinoline
2-Aminoindane (32 μL, 0.25 mmol), 4-nitrophenyl chloroformate (51 mg, 0.25 mmol), triethylamine (140 μL, 1.0 mmol), and 7-chloro-4-(piperazin-1-yl)quinoline (62 mg, 0.25 mmol) are treated according to method D delivering the title product as a colorless solid after column chromatography with hexane-EtOAc.

reactant | 2-Aminoindane | 0.25 mmol, 32 μL | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | 4-nitrophenyl chloroformate | 0.25 mmol, 51 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 1.0 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 0.25 mmol, 62 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
product | 7-Chloro-4-[4-(1-indanylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CCC2=CC=CC=C12 | C23H23ClN4O
